US04810713
4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxyl-3-methoxybenzoic acid methyl ester
Following the procedure of Example 1 and utilizing potassium iodide catalyst and substituting dimethylformamide for butanol, a mixture of 5.4 g (0.021 mole) of 4-(3-chloropropoxy)-3-methoxybenzoic acid methyl ester, 6.0 g (0.02 mole) of [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol, 7.4 g (0.07 mole) of anhydrous sodium carbonate and 0.3 g of potassium iodide in 150 ml of dimethylformamide was reacted to give 5.7 g (53%) of white solid, m.p. 131°-132.5° C. after recrystallization from isopropyl alcohol.

reactant | 4-(3-chloropropoxy)-3-methoxybenzoic acid methyl ester | 0.021 mole, 5.4 g | COC(C1=CC(=C(C=C1)OCCCCl)OC)=O | C12H15ClO4
reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | 0.02 mole, 6.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | sodium carbonate | 0.07 mole, 7.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | potassium iodide | [I-].[K+]
solvent | butanol | C(CCC)O | C4H10O
product | 3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxyl-3-methoxybenzoic acid methyl ester | 5.7 g, 53% | COC(C1=C(C(=CC=C1)OC)OCCCN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C30H33F2NO5
